US04297355
To a solution of 5-hydroxymethyl-salicylaldehyde (5.8 g.) and 2-thiobarbituric acid (6 g.) in n-butanol (100 ml.) add methanesulfonic acid (10 ml.) and heat to reflux, with stirring, for 1 hour. Cool, filter and wash the solid with ethanol and ether to yield 7-n-butyloxymethyl-(1H,3H,5H)-(1)-benzopyrano-(2,3-d)-pyrimidine-4-one-2-thione.

reactant | 5-hydroxymethyl-salicylaldehyde | 5.8 g | OCC1=CC=C(C(C=O)=C1)O | C8H8O3
reactant | 2-thiobarbituric acid | 6 g | N1C(=S)NC(=O)CC1=O | C4H4N2O2S
reactant | methanesulfonic acid | 10 ml | CS(=O)(=O)O | CH4O3S
solvent | n-butanol | 100 ml | C(CCC)O | C4H10O
product | 7-n-butyloxymethyl-(1H,3H,5H)-(1)-benzopyrano-(2,3-d)-pyrimidine-4-one-2-thione | C(CCC)OCC=1C=CC2=C(CC3=C(NC(NC3=O)=S)O2)C1 | C16H18N2O3S
